US08476457B2
To a solution of 4-amino-3-nitro-benzoic acid methyl ester (4.6 g, 23.45 mmol) in ethanol (120 mL) was added iodine (8.33 g, 32.83 mmol), followed by Ag2SO4 (10.24 g 32.83 mmol). The mixture was stirred overnight at room temperature and then filtered. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography to give 4.98 g (66%) of 4-amino-3-iodo-5-nitro-benzoic acid methyl ester.

reactant | 4-amino-3-nitro-benzoic acid methyl ester | 23.45 mmol, 4.6 g | COC(C1=CC(=C(C=C1)N)[N+](=O)[O-])=O | C8H8N2O4
reactant | iodine | 32.83 mmol, 8.33 g | II | I2
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | Ag2SO4 | 32.83 mmol, 10.24 g | [O-]S(=O)(=O)[O-].[Ag+].[Ag+]
product | 4-amino-3-iodo-5-nitro-benzoic acid methyl ester | 4.98 g, 66% | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])N)I)=O | C8H7IN2O4
